US05554778
A mixture of 0.059 mmol RuHCl(H2)(PCy3)2, 2.87 mmol dodecanedinitrile, 5 mL water and 35 mL toluene was stirred in a Fisher-Porter tube at 80° C. under 860 kPa H2. After 22 hours, gc analysis showed that the dinitrile was completely converted and the product, 1,12-dodecanediamine, formed in 85% yield.

reactant | dodecanedinitrile | 2.87 mmol | C(CCCCCCCCCCC#N)#N | C12H20N2
reactant | water | 5 mL | O | H2O
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | 1,12-dodecanediamine | 85% yield | C(CCCCCCCCCCCN)N | C12H28N2
